US08067447B2
A suspension of (3S)-3-(1-(2-cyano-4-fluorophenyl)-1H-indazol-5-yl)-2,2-dimethyl-3-phenyl-N-(1,3,4-thiadiazol-2-yl)propanamide (35 mg, 0.072 mmol) and Na2O2 (77 mg, 1.1 mmol) in water (7 mL) was stirred under nitrogen at 70° C. for 30 min and at 90° C. for 1 day. The mixture was acidified with 10% aqueous citric acid solution to pH=2 and extracted with ethyl acetate (3×5 mL). The combined ethyl acetate extracts were concentrated in vacuo. Purification using reverse phase HPLC (YMC S5 20×100 mm, 10 min. run, solvent A: 10% MeOH: 90% H2O: 0.1% TFA, solvent B: 90% MeOH, 10% H2O, 0.1% TFA) gave 2-(5-((S)-3-(1,3,4-thiadiazol-2-ylamino)-2,2-dimethyl-3-oxo-1-phenylpropyl)-1H-indazol-1-yl)-5-fluorobenzoic acid; Example 157 (24 mg, 0.047 mmol, 64% yield) as a yellow solid. MS found: (M+H)+=516. 1H-NMR (500 MHz, METHANOL-d3) δ ppm 8.95 (s, 1H) 8.16 (s, 1H) 7.89 (s, 1H) 7.72 (dd, J=8.80, 3.02 Hz, 1H) 7.60 (dd, J=8.66, 4.81 Hz, 1H) 7.49 (td, J=8.25, 3.02 Hz, 1H) 7.39-7.43 (m, 3H) 7.15-7.27 (m, 4H) 4.82 (s, 1H) 1.46 (s, 3H) 1.44 (s, 3H).

reactant | (3S)-3-(1-(2-cyano-4-fluorophenyl)-1H-indazol-5-yl)-2,2-dimethyl-3-phenyl-N-(1,3,4-thiadiazol-2-yl)propanamide | 0.072 mmol, 35 mg | C(#N)C1=C(C=CC(=C1)F)N1N=CC2=CC(=CC=C12)[C@@H](C(C(=O)NC=1SC=NN1)(C)C)C1=CC=CC=C1 | C27H21FN6OS
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
reactant | water | 7 mL | O | H2O
product | 2-(5-((S)-3-(1,3,4-thiadiazol-2-ylamino)-2,2-dimethyl-3-oxo-1-phenylpropyl)-1H-indazol-1-yl)-5-fluorobenzoic acid | S1C(=NN=C1)NC(C([C@@H](C1=CC=CC=C1)C=1C=C2C=NN(C2=CC1)C1=C(C(=O)O)C=C(C=C1)F)(C)C)=O | C27H22FN5O3S
